US03963730
A solution of 5.0 g. of acetonine in 21 g. of methanol was added with 19 g. of acetone and 4.0 g. of urea nitrate. The mixture was maintained at room temperature for 24 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 125%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | methanol | CO | CH4O
reactant | urea nitrate | [N+](=O)(O)[O-].NC(=O)N
solvent | acetone | CC(=O)C | C3H6O
product | triacetonamine | yield of 125% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
